US05059608
To a solution of 1-methyl-1-phenyl-2-(2-chloroacetyl)-1,2,3,4-tetrahydroisoquinoline (1.0 g) in methylene chloride (10 ml) was added piperidine (0.82 ml) under ice-cooling, and the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium bicarbonate, sodium chloride aqueous solution and dried over magnesium sulfate, evaporated in vacuo. The residue was dissolved in ethanol (5 ml) and to the solution was added 6M ethanol solution of hydrogen chloride (1 ml). The mixture was evaporated in vacuo and the residue was recrystallized from isopropyl alcohol and diisopropyl ether. The crystal was washed with diethyl ether and dried in vacuo to give 1-methyl-1-phenyl-2-(2-piperidino-acetyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride (0.4 g).

reactant | 1-methyl-1-phenyl-2-(2-chloroacetyl)-1,2,3,4-tetrahydroisoquinoline | 1.0 g | CC1(N(CCC2=CC=CC=C12)C(CCl)=O)C1=CC=CC=C1 | C18H18ClNO
reactant | piperidine | 0.82 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-1-phenyl-2-(2-piperidino-acetyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.4 g | Cl.CC1(N(CCC2=CC=CC=C12)C(CN1CCCCC1)=O)C1=CC=CC=C1 | InChI=1S/C23H28N2O.ClH/c1-23(20-11-4-2-5-12-20)21-13-7-6-10-19(21)14-17-25(23)22(26)18-24-15-8-3-9-16-24;/h2,4-7,10-13H,3,8-9,14-18H2,1H3;1H
